US08293847B2
A 300 ml flask fitted with a thermometer, a stirrer, a condenser, and a nitrogen inlet tube was charged with 2.71 g (0.045 mols) of 1,12-diaminododecane, 5.77 g (0.01 mols) of a polyetherdiamine (ED2000 (a product name), manufactured by BASF Corporation, molecular weight: 1,923), 3.35 g (0.045 mols) of 1,3-bis(3-aminopropyl)tetramethyldisiloxane (LP-7100 (a product name), manufactured by Shin-Etsu Chemical Co., Ltd.), 15.62 g (0.1 mols) of 4,4′-(4,4′-isopropylidenediphenoxy)bis(phthalic anhydride) that had been purified in advance by recrystallization from acetic anhydride (and exhibited a difference between the endothermic start temperature and the endothermic peak temperature as determined by DSC of 2.5° C.), and 113 g of N-methyl-2-pyrrolidone, and the resulting reaction liquid was then heated to 180° C. under constant stirring while nitrogen gas was blown through the system, thereby allowing the reaction to progress. The water generated within the reaction liquid was then removed, yielding a solution of a polyimide resin (PI-C). Measurement of the polyimide resin by GPC revealed polystyrene equivalent values of Mn=22,600 and Mw=121,400.

reactant | 1,12-diaminododecane | 0.045 mols, 2.71 g | NCCCCCCCCCCCCN | C12H28N2
reactant | 1,3-bis(3-aminopropyl)tetramethyldisiloxane | 0.045 mols, 3.35 g | NCCC[Si](O[Si](CCCN)(C)C)(C)C | C10H28N2OSi2
reactant | 4,4′-(4,4′-isopropylidenediphenoxy)bis(phthalic anhydride) | 0.1 mols, 15.62 g | CC(C)(C1=CC=C(C=C1)OC2=CC3=C(C=C2)C(=O)OC3=O)C4=CC=C(C=C4)OC5=CC6=C(C=C5)C(=O)OC6=O | C31H20O8
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methyl-2-pyrrolidone | 113 g | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | polyimide resin | CC1(CC(C2=C1C=C(C=C2)N)(C)C3=CC=C(C=C3)N)C.C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | InChI=1S/C18H22N2.C17H6O7/c1-17(2)11-18(3,12-4-6-13(19)7-5-12)15-9-8-14(20)10-16(15)17;18-13(7-1-3-9-11(5-7)16(21)23-14(9)19)8-2-4-10-12(6-8)17(22)24-15(10)20/h4-10H,11,19-20H2,1-3H3;1-6H
